US08076350B2
1-(Thieno[2,3-b]pyridin-5-yl)ethanone
To a vigorously stirred mixture of 2-nitrothiophene (Aldrich, 12.9 g, 0.1 mol) in concentrated HCl (Aldrich, 36.5%, 195 mL) was carefully added tin (Aldrich, 100 mesh, 25 g, 0.21 mol) at 20-30° C. After most of tin metal had been dissolved, EtOH (Aldrich, 70 mL) and ZnCl2 (Aldrich, 6.0 g, 0.044 mol) were added and the mixture was then heated to 75° C. for 1 h. The brown solution was cooled down to ambient temperature and 4,4-dimethoxybutan-2-one (Aldrich, 39.6 g, 0.3 mol) in EtOH (50 mL) was added. The reaction mixture was stirred at 70° C. for 10 h. The cooled brown reaction mixture was poured into NaOH aqueous solution (50%. 160 mL) and extrated with EtOAc (3×500 mL). The combined extracts were washed with brine (2×50 mL) and concentrated. The residue was purified with chromatography (SiO2, EtOAc/hexane, v. 20/80, Rf=0.30) to give the title compound (4.20 g, yield, 23%). 1H NMR (300 MHz, CDCl3) δ ppm 2.72 (s, 3 H), 7.38 (d, J=6.10 Hz, 1 H), 7.64 (d, J=6.10 Hz, 1 H), 8.63 (d, J=2.03 Hz, 1 H), 9.14 (d, J=2.03 Hz, 1 H); MS (DCI/NH3) M/z 178 (M+1)+, 195 (M+NH4).

reactant | 2-nitrothiophene | 0.1 mol, 12.9 g | [N+](=O)([O-])C=1SC=CC1 | C4H3NO2S
reactant | tin | 0.21 mol, 25 g | [Sn] | Sn
reactant | 4,4-dimethoxybutan-2-one | 0.3 mol, 39.6 g | COC(CC(C)=O)OC | C6H12O3
reactant | NaOH | 160 mL | [OH-].[Na+]
reactant | EtOH | 50 mL | CCO | C2H6O
reactant | EtOH | 70 mL | CCO | C2H6O
solvent | HCl | 195 mL | Cl | ClH
catalyst | ZnCl2 | 0.044 mol, 6.0 g | [Cl-].[Cl-].[Zn+2]
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 1-(Thieno[2,3-b]pyridin-5-yl)ethanone | 4.20 g, 23% | S1C=CC=2C1=NC=C(C2)C(C)=O | C9H7NOS
